US03994941
In the manner given in Example 21, a mixture of 8-chloro-6-(o-chlorophenyl)-1-(2-phthalimidoethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with hydrazine hydrate to give 1-(2-aminoethyl)-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-6-(o-chlorophenyl)-1-(2-phthalimidoethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN3C(C=2C(C3=O)=CC=CC2)=O)C2=C(C=CC=C2)Cl)C1 | C26H17Cl2N5O2
reactant | hydrazine hydrate | O.NN
product | 1-(2-aminoethyl)-8-chloro-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NCCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C18H15Cl2N5
